US05236952
A solution of 1.38 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone and 505.7 mg of 2-amino-1,3,4-thiadiazole in 25 ml of n-butanol is heated to boiling under reflux for 7 hours. The reaction mixture is then cooled to room temperature and the separated crystals are filtered under suction. There is obtained 5-(imidazo-[2,1-b]-1,3,4-thiadiazol-6-yl)-3-nitropyrocatechol of m.p. 278°-280° (from methanol).

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 1.38 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | 2-amino-1,3,4-thiadiazole | 505.7 mg | NC=1SC=NN1 | C2H3N3S
solvent | n-butanol | 25 ml | C(CCC)O | C4H10O
product | 5-(imidazo-[2,1-b]-1,3,4-thiadiazol-6-yl)-3-nitropyrocatechol | S1C=2N(N=C1)C=C(N2)C2=CC(=C(C(O)=C2)O)[N+](=O)[O-] | C10H6N4O4S
